US08541448B2
Intermediate 1.4: 4-(3-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline
Into a 500-mL 3-necked round-bottom flask, was placed a solution of 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(3-bromophenyl)ethanol (25 g, 64.27 mmol, 1.00 equiv) in dichloromethane (100 mL). This was followed by the addition of sulfuric acid (100 mL) dropwise with stirring at 0-5° C. The resulting solution was stirred for 4 h at room temperature. The resulting solution was diluted with of ice water. The pH value of the solution was adjusted to 8 with sodium hydroxide. The resulting solution was extracted with 3×300 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was re-crystallized from petroleum ether:ethyl acetate in the ratio of 8:1. This resulted in 15 g (63%) of 4-(3-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline as a white solid.

reactant | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(3-bromophenyl)ethanol | 64.27 mmol, 25 g, 1.00 equiv | ClC1=C(CN(CC(O)C2=CC(=CC=C2)Br)C)C=CC(=C1)Cl | C16H16BrCl2NO
reactant | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(3-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline | BrC=1C=C(C=CC1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C16H14BrCl2N
